US07888366B2
To a cold (ice water) suspension of sodium hydride (407 mg; 10 mmol) in anhydrous DMF (4 mL) is added a solution of 2,3,5-trifluorobenzyl alcohol (1.62 g; 10 mmol) in anhydrous DMF (5 mL) over 10 minutes. After allowing to room temperature over 1 hour, this solution is added to a cold (ice water) stirred solution of 2,6-difluorobenzonitrile (1.56 gm; 11 mmol) in anhydrous DMF (5 mL), and allowed to room temperature over 3 hours. TLC (25% EA/Hex) was incomplete so the reaction was continued at room temperature for an additional 2 hours. The reaction mixture is poured into ice water with vigorous stirring and the resulting solid is filtered, washed with water, and dried under vacuum at 40° C. for 4.5 hours to give 2.05 grams of 2-fluoro-6-(2,3,5-trifluorobenzyloxy)-benzonitrile.

reactant | sodium hydride | 10 mmol, 407 mg | [H-].[Na+]
reactant | 2,3,5-trifluorobenzyl alcohol | 10 mmol, 1.62 g | FC1=C(CO)C=C(C=C1F)F | C7H5F3O
reactant | 2,6-difluorobenzonitrile | 11 mmol, 1.56 gm | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
reactant | EA | CC(OCC)=O | C4H8O2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-fluoro-6-(2,3,5-trifluorobenzyloxy)-benzonitrile | 2.05 grams | FC1=C(C#N)C(=CC=C1)OCC1=C(C(=CC(=C1)F)F)F | C14H7F4NO
